US05559111
k) 3(S)-Isopropyl-5(S)-(1(S)-azido-3(S)-carboxy-4-methyl-pentyl)-tetrahydrofuran-2-one
175 ml of water, 74 ml of 30% hydrogen peroxide solution and 5.9 g of lithium hydroxide are slowly added in succession to a solution, stirred at -5° C., of 55.3 g of 3(S)-isopropyl-5(S)-{1(S)-azido-4-methyl-3(S)-[(4(S)-benzyl-oxazolidin-2-on-3-yl)-carbonyl]-pentyl}-tetrahydrofuran-2-one in 500 ml of tetrahydrofuran. The reaction mixture is stirred for one hour at 5° C. and for 150 minutes at room temperature, and then 750 ml of aqueous 1M sodium sulfite solution are added at 3° C. over a period of 30 minutes and the mixture is stirred for a further 30 minutes at room temperature. The reaction mixture is then freed of tetrahydrofuran by concentration, and the aqueous solution is washed three times with 1200 ml of ethyl acetate, the organic phases being back-extracted three times with 100 ml of 0.1N sodium hydroxide. The combined aqueous phases are adjusted to pH 1-2 with approximately 200 ml of 4N hydrochloric acid and are extracted with 3×1200 ml of ethyl acetate. The organic phases are combined, dried over magnesium sulfate and concentrated by evaporation, yielding the crude product which, for the purpose of cyclisation of the opened lactone, is dissolved in 500 ml of toluene and stirred for 2 hours at 50° C. with approximately 1 g of molecular sieve and approximately 1 g of p-toluenesulfonic acid. Filtration, concentration by evaporation and purification of the residue by means of FC (hexane/ethyl acetate/glacial acetic acid=30:60:1) yield the title compound, which crystallises spontaneously: m.p.=56°-58° C.; Rf (hexane/ethyl acetate/glacial acetic acid=30:60:1)=0.62; HPLC Rt =14.46 minutes; FAB-MS (M+H)+ =298.

reactant | hydrogen peroxide | 74 ml | OO | H2O2
reactant | lithium hydroxide | 5.9 g | [OH-].[Li+]
reactant | 3(S)-isopropyl-5(S)-{1(S)-azido-4-methyl-3(S)-[(4(S)-benzyl-oxazolidin-2-on-3-yl)-carbonyl]-pentyl}-tetrahydrofuran-2-one | 55.3 g | C(C)(C)[C@H]1C(O[C@@H](C1)[C@H](C[C@@H](C(C)C)C(=O)N1C(OC[C@@H]1CC1=CC=CC=C1)=O)N=[N+]=[N-])=O | C24H32N4O5
reactant | sodium sulfite | 1M | S(=O)([O-])[O-].[Na+].[Na+]
reactant | p-toluenesulfonic acid | approximately 1 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 175 ml | O | H2O
product | 3(S)-Isopropyl-5(S)-(1(S)-azido-3(S)-carboxy-4-methyl-pentyl)-tetrahydrofuran-2-one | C(C)(C)[C@H]1C(O[C@@H](C1)[C@H](C[C@@H](C(C)C)C(=O)O)N=[N+]=[N-])=O | C14H23N3O4
